US07812017B2
4-Bromo-6-methoxy-1-(phenylsulfonyl)-1H-indole
4-Bromo-6-methoxy indole (0.07 g, 0.3 mmol) was dissolved in dry dichloromethane (4 mL) and benzenesulphonyl chloride (0.06 g, 0.3 mmol), tetrabutylammonium hydrogen sulphate (0.01 g, 0.01 mmol) and 4N NaOH (0.5 mL) were added and the mixture was stirred at rt for 50 min. The mixture was extracted with water (2×4 mL), dried (Na2SO4) and evaporated. The crude product was combined with an earlier batch of this intermediate (followed this experimental and starting with 4-bromo-6-methoxy indole (0.35 g, 1.5 mmol). MS (ESI+) for C15H12BrNO3S m/z 366 (M+H)+.

reactant | 4-Bromo-6-methoxy indole | 0.3 mmol, 0.07 g | BrC1=C2C=CNC2=CC(=C1)OC | C9H8BrNO
reactant | benzenesulphonyl chloride | 0.3 mmol, 0.06 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaOH | 4N, 0.5 mL | [OH-].[Na+]
reactant | 4-bromo-6-methoxy indole | 1.5 mmol, 0.35 g | BrC1=C2C=CNC2=CC(=C1)OC | C9H8BrNO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulphate | 0.01 mmol, 0.01 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Bromo-6-methoxy-1-(phenylsulfonyl)-1H-indole | BrC1=C2C=CN(C2=CC(=C1)OC)S(=O)(=O)C1=CC=CC=C1 | C15H12BrNO3S
